US05449686
2b. 3,4-Bisdifluoromethoxybenzyl alcohol
3,4-Bisdifluoromethoxybenzaldehyde (26.2 g, 110 mmol) in absolute ethanol (150 mL) was treated with sodium borohydride (8.32 g, 220 mmol) under an argon atmosphere at room temperature for 0.5 h. Ten percent aqueous sodium hydroxide (130 mL) was added, the ethanol was removed in vacuo, the mixture was partitioned between ether and water and was extracted twice with ether. The organic extract was dried (magnesium sulfate) and evaporated to a pale yellow oil (26.4 g, 100%).

reactant | 3,4-Bisdifluoromethoxybenzaldehyde | 110 mmol, 26.2 g | FC(OC=1C=C(C=O)C=CC1OC(F)F)F | C9H6F4O3
reactant | sodium borohydride | 220 mmol, 8.32 g | [BH4-].[Na+]
reactant | sodium hydroxide | 130 mL | [OH-].[Na+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 3,4-Bisdifluoromethoxybenzyl alcohol | FC(OC=1C=C(CO)C=CC1OC(F)F)F | C9H8F4O3
